US07612226B2
(3S,5S)-3-(3,3-Dimethylbutyl)-3-methyl-5-phenylmorpholin-2-one
A suspension of Rieke Magnesium (343 mg, 14.1 mmol) in tetrahydrofuran (13.7 ml) was added to a solution of 1-iodo-3,3-dimethylbutane in diethylether (50 ml) over a period of twenty minutes and the reaction was stirred for 40 minutes at room temperature. The Grignard reagent solution and (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one (1 g, 5.28 mmol, see WO-A-02/051983) were used according to the method of Preparation 1 to generate the title compound. The total amount of compound synthesised was 0.394 g.

reactant | Magnesium | 14.1 mmol, 343 mg | [Mg] | Mg
reactant | 1-iodo-3,3-dimethylbutane | ICCC(C)(C)C | C6H13I
reactant | (5S)-3-methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one | CC=1C(OC[C@@H](N1)C1=CC=CC=C1)=O | C11H11NO2
solvent | tetrahydrofuran | 13.7 ml | O1CCCC1 | C4H8O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | (3S,5S)-3-(3,3-Dimethylbutyl)-3-methyl-5-phenylmorpholin-2-one | CC(CC[C@@]1(N[C@H](COC1=O)C1=CC=CC=C1)C)(C)C | C17H25NO2
